US07855194B2
Methanesulfonic acid 2-ethoxy-4-formyl-phenyl ester
To a solution of 3-ethoxy-4-hydroxybenzaldehyde (3.0 g, 18.1 mmol, 1.0 equiv; commercially available) and N,N-dimethylaminopyridine (2.87 g, 23.5 mmol, 1.3 equiv) in dichloromethane (10 mL) under Ar at 0° C. was added methanesulfonyl chloride (1.68 mL, 2.48 g, 21.7 mmol, 1.2 equiv). After the reaction mixture was stirred for 1 h, water (100 mL) was added, the solution extracted with dichloromethane (3×50 mL) and the combined organic phases dried over MgSO4. Removal of the solvent by evaporation under reduced pressure provided the title compound in quantitative yield (4.8 g). 1H NMR (300 MHz, CDCl3): □ 1.42 (t, J=7.0 Hz, 3H), 3.19 (s, 3H), 4.14 (q, J=7.0 Hz, 2H), 7.41 (s, 2H), 7.45 (s, 1H), 9.89 (s, 1H), 13C NMR (75 MHz, CDCl3): δ 14.53, 38.94, 64.99, 112.20, 124.38, 125.17, 136.01, 142.92, 151.63, 190.65. MS (ISP): 245.2 [M+H]+.

reactant | 3-ethoxy-4-hydroxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | methanesulfonyl chloride | 21.7 mmol, 1.68 mL, 2.48 g, 1.2 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 2-ethoxy-4-formyl-phenyl ester | quantitative yield | C(C)OC1=C(C=CC(=C1)C=O)OS(=O)(=O)C | C10H12O5S
